US09126969B2
443 mg of 4-fluoro-2-nitro-5-(2-piperidin-1-ylethoxy)-phenylamine in solution in 20 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 44 mg of palladium-on-charcoal at 25° C. for 10 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 380 mg of 4-fluoro-5-(2-piperidin-1-ylethoxy)benzene-1,2-diamine are obtained in the form of a black lake. The compound is used without any other purification.

reactant | 4-fluoro-2-nitro-5-(2-piperidin-1-ylethoxy)-phenylamine | 443 mg | FC1=CC(=C(C=C1OCCN1CCCCC1)N)[N+](=O)[O-] | C13H18FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-on-charcoal | 44 mg | [Pd] | Pd
product | 4-fluoro-5-(2-piperidin-1-ylethoxy)benzene-1,2-diamine | 380 mg | FC=1C=C(C(=CC1OCCN1CCCCC1)N)N | C13H20FN3O
